US07279487B2
Step 4: Preparation of N-{2-[(2-cyanopyridin-3-yl)amino]ethyl}-N-methylmethanesulfonamide
In a manner similar to that described for Example 2, 2-[methyl(methylsulfonyl)amino]ethanaminium chloride (4 g, 25.4 mmol) was dissolved in DMSO (20 mL) and treated with 3-fluoro-2-cyanopyridine (2.5 g, 21.2 mmol) and Hunig's base (4.4 mL, 25.4 mmol) and heated to 90 degrees under pressure. The product was isolated as an oily off-white solid.

reactant | 2-[methyl(methylsulfonyl)amino]ethanaminium chloride | 25.4 mmol, 4 g | [Cl-].CN(CC[NH3+])S(=O)(=O)C
reactant | 3-fluoro-2-cyanopyridine | 21.2 mmol, 2.5 g | FC=1C(=NC=CC1)C#N | C6H3FN2
reactant | Hunig's base | 25.4 mmol, 4.4 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | N-{2-[(2-cyanopyridin-3-yl)amino]ethyl}-N-methylmethanesulfonamide | C(#N)C1=NC=CC=C1NCCN(S(=O)(=O)C)C | C10H14N4O2S
